US05811432
B. 6-Chloro-3-(2-thenoyl)-4-azaoxindole
Pellets of sodium metal (3.4 g, 0.15 mmol) were added to dry ethanol (90 mL) in a dry round-bottomed flask. When dissolution of the sodium was complete, solid 6-chloro-4-azaoxindole (5.0 g 29.7 mmol) was added followed by ethyl 2-thiophenecarboxylate (8 mL, 55 mmol). The mixture was heated under nitrogen at reflux overnight during which a precipitate formed. The mixture was cooled, poured into ice/water and acidified to pH 3 with 6N HCl solution. The solid azaoxindole (7.8 g, 94%) (m.p. 250°) was collected by filtration washing with water and ether and dried in vacuo with heating.

reactant | sodium | 0.15 mmol, 3.4 g | [Na] | Na
reactant | 6-chloro-4-azaoxindole | 29.7 mmol, 5.0 g | ClC1=CN=C2CC(NC2=C1)=O | C7H5ClN2O
reactant | ethyl 2-thiophenecarboxylate | 55 mmol, 8 mL | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 6-Chloro-3-(2-thenoyl)-4-azaoxindole | ClC1=CN=C2C(C(NC2=C1)=O)C(C1=CC=CS1)=O | C12H7ClN2O2S
